US06710064B2
2-(3,5-dichlorophenyl)-tetrahydro-pyrrolo[3,4-c]pyrrole-1,3(2H,3aH)-dione
A solution of 5-benzyl-2-(3,5-dichlorophenyl)-tetrahydro-pyrrolo[3,4-c]pyrrole-1,3(2H,3aH)-dione (1.13 g, 3 mmol) in acetic acid (20 mL) was hydrogenated at atmospheric pressure over platinum oxide for 4 h. The catalyst was filtered off and the filtrate was poured into an ammonium hydroxide solution. The aqueous solution was extracted twice with methylene chloride. The organic layer was dried over sodium sulfate and concentrated in vacuo to give an oil (0.86 g) which was chromatographed over silica gel (CH2Cl2/MeOH/NH4OH: 90/9/1) to yield the above compound as a white solid (0.53 g). Mp=170° C. 1H NMR (DMSO-d6): 7.73 (1H, m), 7.47 (2H, m), 3.2-3.5 (4H, m), 2.8-2.9 (2H, m).

reactant | 5-benzyl-2-(3,5-dichlorophenyl)-tetrahydro-pyrrolo[3,4-c]pyrrole-1,3(2H,3aH)-dione | 3 mmol, 1.13 g | C(C1=CC=CC=C1)N1CC2C(C1)C(N(C2=O)C2=CC(=CC(=C2)Cl)Cl)=O | C19H16Cl2N2O2
solvent | acetic acid | 20 mL | C(C)(=O)O | C2H4O2
catalyst | platinum oxide | [Pt]=O
product | 2-(3,5-dichlorophenyl)-tetrahydro-pyrrolo[3,4-c]pyrrole-1,3(2H,3aH)-dione | 0.86 g | ClC=1C=C(C=C(C1)Cl)N1C(C2CNCC2C1=O)=O | C12H10Cl2N2O2
